US03941785
b. 2-amino-5-methyl-4-methylthio-7-propylimidazo[5,1-f]-as-triazine
2-amino-5-methyl-7-propylimidazo[5,1-f]-as-triazine-4(3H)-thione, hydrochloride (0.65 g.) in a slight excess of 2N sodium hydroxide was treated with iodomethane (0.4 g.) and the mixture was stirred 2 hours at room temperature. The solid was collected and crystallised from aqueous ethanol and had m.p. 139°-140°. Its hydrochloride melted at 207°-208°.

reactant | 2-amino-5-methyl-7-propylimidazo[5,1-f]-as-triazine-4(3H)-thione, hydrochloride | 0.65 g | Cl.NC1=NN2C(C(N1)=S)=C(N=C2CCC)C
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | iodomethane | 0.4 g | IC | CH3I
product | 2-amino-5-methyl-4-methylthio-7-propylimidazo[5,1-f]-as-triazine | NC1=NN2C(C(=N1)SC)=C(N=C2CCC)C | C10H15N5S
